### ISSUE TITLE
`smt_show [*]` fails on polymorphic `Monoid` goals (`incorrect number of universe levels Monoid`)

### ISSUE THREAD

**Issue by alexhkurz** [ufmg-smite/lean-smt#230]
## Environment

- **lean-smt:** `main` at `7d1d823` (Lean **4.29.0**)
- **Mathlib:** v4.29.0
- **OS:** macOS (arm64); cvc5 via lean-cvc5 dynlib plugin

## Summary

The **same theorem** — associativity of multiplication,

```lean
theorem mul_assoc_smt (a b c : …) : a * b * c = a * (b * c)
```

behaves differently depending only on whether a **typeclass variable** is in scope:

| Variant | Carrier | `variable` | `smt` / `smt_show [*]` |
|---------|---------|------------|-------------------------|
| **Works** | `Nat` | none | `smt` closes the goal |
| **Fails** | abstract `M` | `[Monoid M]` | `smt_show [*]` → `incorrect number of universe levels Monoid` |

We expected `[*]` to pass user-relevant facts, not polymorphic typeclass instances. This blocks the common Mathlib pattern `variable {α : Type*} [SomeClass α]`.

### Works (concrete `Nat`, no typeclass variable)

```lean
import Mathlib.Data.Nat.Basic
import Smt

namespace WorksWithoutTypeclass

theorem mul_assoc_smt (a b c : Nat) : a * b * c = a * (b * c) := by
  smt

end WorksWithoutTypeclass
```

### Fails (polymorphic `Monoid` + `[*]`)

```lean
import Mathlib.Algebra.Group.Defs
import Smt

namespace FailsWithTypeclass

variable {M : Type*} [Monoid M]

theorem mul_assoc_smt (a b c : M) : a * b * c = a * (b * c) := by
  smt_show [*]   -- error: incorrect number of universe levels Monoid
  exact mul_assoc a b c

end FailsWithTypeclass
```
